US07125990B2
2-Methyl-6-oxo-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-carboxylic acid cyclopropylmethyl-propyl-amide, Scheme 7: (LL)
To a solution of N-cyclopropylmethylpropylamine (0.22 mL, 1.530 mmol) in toluene (1.5 mL) at 0° C. was added 2.0M solution of trimethylaluminum in toluene (0.77 mL, 1.530 mmol). The clear solution was warmed to room temperature and stirred for 1 h. A solution of 6-chloro-2-methyl-7-(2,4,6-trimethyl-phenyl)-7H-imidazo[1,2-a]imidazole-3-carboxylic acid ethyl ester (20.0 mg, 0.058 mmol) in toluene (1.5 mL) was added at 0° C. via cannula. The reaction mixture was heated at 80° C. for 2 h. A solution of Rochelle's salt (2.0 mL) was added carefully at 0° C. and the mixture was vigorously stirred for 30 min. The crude product was extracted with ethyl acetate. The combined organic extracts were dried with MgSO4. The solvent was removed under reduced pressure and the crude product was purified by a reverse-phase preparative HPLC. Yield—3.6 mg (12%). 1H NMR (CD3CN, 500 MHz) δ 7.07 (s, 2H), 4.73 (s, 2H), 3.57 (t, J=7.1 Hz, 2H), 3.37 (d, J=6.9 Hz, 2H), 2.35 (s, 3H), 2.19 (s, 3H), 2.14 (s, 6H), 1.65 (sextet, J=7.3 Hz, 2H), 1.08 (m, 1H), 0.90 (t, J=7.4 Hz, 3H), 0.56 (m, 2H), 0.21 (m, 2H); LC/MS: tR=1.67 min., MS: [M+H]=395.

reactant | N-cyclopropylmethylpropylamine | 1.530 mmol, 0.22 mL | C1(CC1)CNCCC | C7H15N
reactant | trimethylaluminum | C[Al](C)C
reactant | 6-chloro-2-methyl-7-(2,4,6-trimethyl-phenyl)-7H-imidazo[1,2-a]imidazole-3-carboxylic acid ethyl ester | 0.058 mmol, 20.0 mg | C(C)OC(=O)C1=C(N=C2N1C=C(N2C2=C(C=C(C=C2C)C)C)Cl)C | C18H20ClN3O2
reactant | Rochelle's salt | 2.0 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.530 mmol, 0.77 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-6-oxo-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-carboxylic acid cyclopropylmethyl-propyl-amide | C1(CC1)CN(C(=O)C1=C(N=C2N1CC(N2C2=C(C=C(C=C2C)C)C)=O)C)CCC | C23H30N4O2
